US04621084
5-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone (1.35 g) was prepared in the substantially same manner as that of Example 4 from 5-(2-bromopropionyl)-3-methyl-2-benzoxazolinone (2.84 g) and 2-amino-4-methylpyridine (3.24 g).

reactant | 5-(2-bromopropionyl)-3-methyl-2-benzoxazolinone | 2.84 g | BrC(C(=O)C=1C=CC2=C(N(C(O2)=O)C)C1)C | C11H10BrNO3
reactant | 2-amino-4-methylpyridine | 3.24 g | NC1=NC=CC(=C1)C | C6H8N2
product | 5-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone | 1.35 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(N(C(O1)=O)C)C2 | C17H15N3O2
